US04496551
Preparation of Chloromethyl[bis(4-fluorophenyl)](2-propoxy)silane
A mixture of 23.2 g (0.955 mol) of magnesium and 50 mg of iodine in 200 ml of ether was stirred while a solution of 167 g (0.954 mol) of 4-bromofluorobenzene in 600 ml of ether was added at a rate that maintained gentle reflux. After another 2 hours at reflux, the solution was cooled in ice and stirred while a solution of 40 ml (0.32 mol) of chloromethyltrichlorosilane in ether was added dropwise over 40 minutes. The resulting mixture was stirred at room temperature for 17 hours, chilled in ice, treated with 24 ml of isopropanol, stirred another 10 minutes, and filtered. The filtrate was concentrated to a gummy solid, hexanes was added, the resulting slurry was filtered, and the hexanes filtrate was evaporated to leave an oil. Analysis by nmr showed the presence of unreacted chlorosilane, so the oil was dissolved in hexanes containing 30 ml of isopropanol, and the solution was chilled in ice and treated with a solution of 42 ml (0.30 mol) of triethylamine in hexanes. The resulting slurry was stirred at room temperature for 3 hours and filtered, and the filtrate was evaporated to leave an oil. Distillation provided 44.8 g (43%) of the title compound as a colorless liquid: bp 120°-140° (0.1 mm); nD22 1.5211; nmr (CDCl3) 1.2 (6H, d), 3.2 (2H, s), 4.1 (1H, septet), 7.1 (4H, t), 7.7 (4H, d of d).

reactant | magnesium | 0.955 mol, 23.2 g | [Mg] | Mg
reactant | 4-bromofluorobenzene | 0.954 mol, 167 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | chloromethyltrichlorosilane | 0.32 mol, 40 ml | ClC[Si](Cl)(Cl)Cl | CH2Cl4Si
reactant | chlorosilane | Cl[SiH3] | ClH3Si
reactant | triethylamine | 0.30 mol, 42 ml | C(C)N(CC)CC | C6H15N
reactant | isopropanol | C(C)(C)O | C3H8O
reactant | isopropanol | 24 ml | C(C)(C)O | C3H8O
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 600 ml | CCOCC | C4H10O
catalyst | iodine | 50 mg | II | I2
product | Chloromethyl[bis(4-fluorophenyl)](2-propoxy)silane | 44.8 g, 43% | ClC[Si](OC(C)C)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H17ClF2OSi
